US06800785B1
A solution of 2-butyl-1-isopropenyl-5-(methoxymethoxy)-2-(4-pentenyl)-1-indanol (200 mg, 0.56 mmol) in dichloromethane (22 mL) was treated with tricyclohexylphosphine[1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydro-imidazol-2-ylidene]benzylidine ruthenium(IV) dichloride (47 mg, 0.056 mmol). After stirring at 45° C. overnight, the mixture was treated with additional tricyclohexylphosphine[1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydro-imidazol-2-ylidene]benzylidine ruthenium (IV) dichloride (47 mg, 0.056 mmol) and stirred at 45° C. for another 24 hours. The mixture was concentrated and the residue purified by preparative layer chromatography on two 0.1×20×20 cm silica gel GF plates (Analtech, Newark, Del.), developing with 10% EtOAc in hexane. The UV visible product band was eluted with EtOAc and the eluant was evaporated under vacuum to provide 9a-butyl-2-(methoxymethoxy)-5-methyl-8,9,9a,10-tetrahydrobenzo[a]azulen-4b(7H)-ol as an oil.

reactant | 2-butyl-1-isopropenyl-5-(methoxymethoxy)-2-(4-pentenyl)-1-indanol | 0.56 mmol, 200 mg | C(CCC)C1(C(C2=CC=C(C=C2C1)OCOC)(O)C(=C)C)CCCC=C | C23H34O3
solvent | dichloromethane | 22 mL | ClCCl | CH2Cl2
product | 9a-butyl-2-(methoxymethoxy)-5-methyl-8,9,9a,10-tetrahydrobenzo[a]azulen-4b(7H)-ol | C(CCC)C12CC3=C(C2(C(=CCCC1)C)O)C=CC(=C3)OCOC | C21H30O3
